US07816557B2
Step F. Racemic 3-{4-[1-(2,4,6-tri-t-butyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid
Racemic 3-{4-[1-(2,4,6-tri-t-butyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester (0.333 g, 0.500 mmol) is dissolved in tetrahydrofuran (3.0 mL) and sodium hydroxide (3.0 mL, 5N) is added. The reaction is monitored by HPLC, and upon complete conversion, the reaction is neutralized with hydrochloric acid (3.0 mL, 5N) and diluted with diethyl ether and water. The two phases are separated, and the organic layer is washed, dried, and concentrated. The title compound is used without further purification. MS (ES): 652.2 [M−H]−.

reactant | Racemic 3-{4-[1-(2,4,6-tri-t-butyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester | 0.500 mmol, 0.333 g | COC(CCNC(C1=CC=C(C=C1)C(CCCC(F)(F)F)OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C(C)(C)C)=O)=O | C34H48F3NO4
reactant | sodium hydroxide | 5N, 3.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5N, 3.0 mL | Cl | ClH
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | Racemic 3-{4-[1-(2,4,6-tri-t-butyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid | C(C)(C)(C)C1=C(OC(CCCC(F)(F)F)C2=CC=C(C(=O)NCCC(=O)O)C=C2)C(=CC(=C1)C(C)(C)C)C(C)(C)C | C33H46F3NO4
